US04524073
1-Benzylamino 2-methanesulphonamidoethane
1-Methanesulphonamido 2-methanesulphonyloxyethane (23.3 g) was added in small portions to benzylamine (24 ml) at such a rate that the temperature did not rise above 30° C. When the addition was complete the mixture was stirred at room temperature for one hour. Ethylacetate (150 ml) was then added to the mixture and the precipitated solid was filtered off. The filtrate was evaporated and the product isolated by column chromatography of the residue using gradient elution (Kieselgel, ethylacetate going to 30% methanol in ethylacetate as eluent). The product was recrystallised from ethylacetate-petroleum ether to give 10.9 g of pale yellow crystals, mpt 71°-73° C.

reactant | 1-Methanesulphonamido 2-methanesulphonyloxyethane | 23.3 g | CS(=O)(=O)NCCOS(=O)(=O)C | C4H11NO5S2
reactant | benzylamine | 24 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | Ethylacetate | 150 ml | C(C)OC(C)=O | C4H8O2
product | 1-Benzylamino 2-methanesulphonamidoethane | 10.9 g | C(C1=CC=CC=C1)NCCNS(=O)(=O)C | C10H16N2O2S
